US07973169B2
47) N-[5-(2-Chloro-benzyl)-thiazol-2-yl]-2-ethylamino -butyramide
2-Bromo-N-[5-(2-chloro-benzyl)-thiazol-2-yl]-butyramide (37 mg, 0.10 mmol) was dissolved in 0.5 mL of N,N-dimethylformamide containing ethylamine (2 M in tetrahydrofuran, 1.00 mL, 2.00 mmol). The reaction vessel was sealed and then subjected to microwave irradiation for 5 minutes at 80° C. The crude mixture was evaporated to dryness and purified by reverse-phase preparative liquid chromatography (19 mg, 0.056, 56%). ESI-MS m/z calc. 337.1, found 338.0 (M+1)+ Retention time 2.08 minutes.

reactant | 2-Bromo-N-[5-(2-chloro-benzyl)-thiazol-2-yl]-butyramide | 0.10 mmol, 37 mg | BrC(C(=O)NC=1SC(=CN1)CC1=C(C=CC=C1)Cl)CC | C14H14BrClN2OS
reactant | ethylamine | 2.00 mmol, 2 M, 1.00 mL | C(C)N | C2H7N
solvent | N,N-dimethylformamide | 0.5 mL | CN(C=O)C | C3H7NO
product | N-[5-(2-Chloro-benzyl)-thiazol-2-yl]-2-ethylamino -butyramide | ClC1=C(CC2=CN=C(S2)NC(C(CC)NCC)=O)C=CC=C1 | C16H20ClN3OS
